US05728651
Preparation of 5,6,7,8-tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-8-fluoro-1,2,4-triazolo[4,3-α]pyridin-3(2H )-one
To a solution of 300 mg (0.847 mmol) of 5,6,7,8-tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-8-hydroxy-1,2,4-triazolo[4,3-α]pyridin-3(2H)-one in 10 mL of dichloromethane was added 123 mL (0.930 mmol) of diethylaminosulfur trifluoride (DAST) at -78° C. The reaction mixture was stirred at -78° C. for 4h. The mixture was warmed to room temperature, quenched with ice, and extracted with dichloromethane. The organic layers were dried (MgSO4), and concentrated under reduced pressure. The crude product was flash chromatographed over silica gel, eluting with a 98:2 v:v mixture of dichloromethane and methanol to give 272 mg of the title product of Step 4 as a yellow solid. 19F NMR (CDCl3, 300 MHz) δ-172; 1H NMR (CDCl3, 300 MHz) δ 7.55 (s,1H), 7.2 (s,1H), 5.6, 5.5 (2m, J=70 Hz,1H), 4.8 (s,2H), 4.0 (m,1H), 3.55 (m,1H), 2.6 (m,1H), 2.5-1.8 (m,4H).

reactant | 5,6,7,8-tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-8-hydroxy-1,2,4-triazolo[4,3-α]pyridin-3(2H)-one | 0.847 mmol, 300 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C2N(CCCC2O)C1=O | C15H13Cl2N3O3
reactant | diethylaminosulfur trifluoride | 0.930 mmol, 123 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5,6,7,8-tetrahydro-2-[2,4-dichloro-5-(2-propynyloxy)phenyl]-8-fluoro-1,2,4-triazolo[4,3-α]pyridin-3(2H )-one | 272 mg | ClC1=C(C=C(C(=C1)Cl)OCC#C)N1N=C2N(CCCC2F)C1=O | C15H12Cl2FN3O2
